US05563169
a) 2-Methoxy-6-vinyl-1-nitrobenzene
A suspension of 4.35 g (12.2 mmol) of triphenylmethylphosphonium bromide in 30 ml of tetrahydrofuran was cooled to -10° C. and 12.1 mmol of a 1.44M solution of butyllithium were dropwise added thereto over a period of 5 minutes. After the resulting mixture was stirred at 0° C. for 40 minutes, a solution of 1.99 g (11.0 mmol) of 3-methoxy-2-nitrobenzaldehyde in 10 ml of tetrahydrofuran was dropwise added thereto over a period of 10 minutes. The temperature of the reaction mixture was allowed to rise to room temperature. After stirring for 16 hours, the reaction mixture was poured into an aqueous solution of ammonium chloride followed by extracting with ether. The ethereal extract was washed with a saturated aqueous solution of sodium chloride and the solvent was distilled off. The residue was purified by column chromatography through 100 g of silica gel using a 15-20:100 mixture of ethyl acetate and hexane as an eluent to give 1.50 g (76%) of the title compound.

reactant | triphenylmethylphosphonium bromide | 12.2 mmol, 4.35 g | [Br-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | butyllithium | C(CCC)[Li]
reactant | 3-methoxy-2-nitrobenzaldehyde | 11.0 mmol, 1.99 g | COC=1C(=C(C=O)C=CC1)[N+](=O)[O-] | C8H7NO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Methoxy-6-vinyl-1-nitrobenzene | 1.50 g, 76% | COC1=C(C(=CC=C1)C=C)[N+](=O)[O-] | C9H9NO3
